US08791147B2
To a solution of methyl 5-chloro-4-(3-fluorophenyl)picolinate (0.196 g, 0.738 mmol) in MeOH (6 mL) was added NaBH4 (0.152 g, 4.02 mmol). The reaction mixture was stirred at rt for 10 min, and diluted with EtOAc and water. The aqueous phase was extracted with EtOAc (1×) and the combined organic extracts were washed with brine (1×), dried over MgSO4, filtered, and concentrated. Purification by flash column chromatography on silica gel (10% to 60% EtOAc in hexanes) gave (5-chloro-4-(3-fluorophenyl)pyridin-2-yl)methanol.

reactant | methyl 5-chloro-4-(3-fluorophenyl)picolinate | 0.738 mmol, 0.196 g | ClC=1C(=CC(=NC1)C(=O)OC)C1=CC(=CC=C1)F | C13H9ClFNO2
reactant | NaBH4 | 4.02 mmol, 0.152 g | [BH4-].[Na+]
solvent | MeOH | 6 mL | CO | CH4O
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | O | H2O
product | (5-chloro-4-(3-fluorophenyl)pyridin-2-yl)methanol | ClC=1C(=CC(=NC1)CO)C1=CC(=CC=C1)F | C12H9ClFNO
